US08633175B2
A mixture of 2,3-dihydro-1H-inden-2-amine (0.780 mL, 5.99 mmol), (3,5-difluoro-4-formylphenyl)boronic acid (1.0 g, 5.99 mmol) and acetic acid (0.710 mL, 12.0 mmol) in THF (12 mL) was stirred at room temperature for 1 hr. To the solution was added NaBH(OAc)3 (3.81 g, 18.0 mmol) and the mixture stirred at room temperature for 16 hr. The mixture was diluted with EtOAc then washed with satd Na2CO3. The combined layers were filtered and the filter cake washed with H2O and EtOAc to give {4-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-3,5-difluorophenyl}boronic acid as a beige glass. LC/MS (method A) tR 0.48 min; m/z 304 (M+H).

reactant | 2,3-dihydro-1H-inden-2-amine | 5.99 mmol, 0.780 mL | C1C(CC2=CC=CC=C12)N | C9H11N
reactant | (3,5-difluoro-4-formylphenyl)boronic acid | 5.99 mmol, 1.0 g | FC=1C=C(C=C(C1C=O)F)B(O)O | C7H5BF2O3
reactant | acetic acid | 12.0 mmol, 0.710 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 18.0 mmol, 3.81 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-3,5-difluorophenyl}boronic acid | C1C(CC2=CC=CC=C12)NCC1=C(C=C(C=C1F)B(O)O)F | C16H16BF2NO2
